US08492378B2
tert-butyl[4-(5-methyl-1,3,4-oxadiazol-2-yl)-2-pyridyl]carbamate
To a solution of tert-butyl[4-(hydrazinocarbonyl)-2-pyridyl]carbamate (1.01 g, 4.0 mmol) and triethylamine (0.832 mL, 6.0 mmol) in tetrahydrofuran (20 mL) was added acetyl chloride (0.341 mL, 4.8 mmol) under ice-cooling, and the resulting mixture was stirred at room temperature for 1 hr. To this reaction mixture were added triethylamine (2.77 mL, 20 mmol) and p-toluenesulfonyl chloride (1.53 g, 8.0 mmol), and the resulting mixture was heated under reflux for 20 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate/tetrahydrofuran. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (tetrahydrofuran), and washed with diethyl ether/methanol to give the title compound (448 mg, yield 41%) as pale-brown crystals.

reactant | tert-butyl[4-(hydrazinocarbonyl)-2-pyridyl]carbamate | 4.0 mmol, 1.01 g | C(C)(C)(C)OC(NC1=NC=CC(=C1)C(=O)NN)=O | C11H16N4O3
reactant | triethylamine | 6.0 mmol, 0.832 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 4.8 mmol, 0.341 mL | C(C)(=O)Cl | C2H3ClO
reactant | triethylamine | 20 mmol, 2.77 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 8.0 mmol, 1.53 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | tert-butyl[4-(5-methyl-1,3,4-oxadiazol-2-yl)-2-pyridyl]carbamate | 448 mg, yield 41% | C(C)(C)(C)OC(NC1=NC=CC(=C1)C=1OC(=NN1)C)=O | C13H16N4O3
